US07432256B2
b) 2-(5-Dimethylaminomethyl-4-methyl-imidazol-1-yl)-benzonitrile
In analogy to example 5b, 2-(4-methyl-imidazol-1-yl)-benzonitrile was reacted with Eschenmoser's salt in DMF for 5 h at 90° C. Evaporation of the solvent, aqueous workup and chromatography (SiO2, dichloromethane:methanol=100:0 to 96:4) afforded the title compound as a light yellow oil (yield: 57%). MS: m/e=241.4 [M+H]+.

reactant | 2-(4-methyl-imidazol-1-yl)-benzonitrile | CC=1N=CN(C1)C1=C(C#N)C=CC=C1 | C11H9N3
reactant | Eschenmoser's salt | C[N+](=C)C.[I-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(5-Dimethylaminomethyl-4-methyl-imidazol-1-yl)-benzonitrile | yield: 57% | CN(C)CC1=C(N=CN1C1=C(C#N)C=CC=C1)C | C14H16N4
